US08389511B2
Methyl 4-mercapto-2-methyl-5-nitrobenzoate
To a solution of methyl 4-chloro-2-methyl-5-nitrobenzoate (1.21 g) in methanol (20 ml) was added sodium hydrosulfide (561 mg), and the mixture was refluxed with stirring for 2 hours. After the reaction was complete, the reaction solution was concentrated, and methanol was concentrated under reduced pressure. Then, to the resultant were added water and 2N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered, concentrated under reduced pressure. The obtained residue was purified by column chromatography to give the title compound (1.17 g).

reactant | methyl 4-chloro-2-methyl-5-nitrobenzoate | 1.21 g | ClC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C | C9H8ClNO4
reactant | sodium hydrosulfide | 561 mg | [SH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | Methyl 4-mercapto-2-methyl-5-nitrobenzoate | 1.17 g | SC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C | C9H9NO4S
